US06541505B1
2-(4-(furan-2-yl)-phenyl)-2-methyl-propionic acid methyl ester.
To a cooled (0° C.) solution of furan (5.7 mL, 78 mmol) in TMEDA/THF (81.4 mL, 14/86) is added n-buLi (15 mL, 2.5 M in hexanes). The cold bath is removed and the resulting solution stirred for 45 minutes, then a solution of ZnCl2 in THF added (40 mL, 0.5M). To this solution is added (Ph3P)4Pd (1.0 g, 0.86 mmol) and 2-(4-Bromo-phenyl)-2-methyl-propionic acid methyl ester (4.5 g, 17.5 mmol) (reference example 31 a). The resulting solution is warmed to 60° C. and stirred for 3 hours. The reaction mixture is then cooled, diluted with ether, washed with hydrochloric acid (2M), then brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (eluting with 5% ether in hexanes) to give 3.84 g of the title compound as a solid. 1H NMR (CDCl3) d 1.60 (s, 6H), 3.67 (s, 3H), 6.45 (m, 1H), 6.63 (d, J=3 Hz, 1H), 7.35 (m, 2H), 7.46 (m, 1H), 7.65 (m, 2H). MS (EI) m/z 245 (M+H)+.

reactant | furan | 78 mmol, 5.7 mL | O1C=CC=C1 | C4H4O
reactant | 2-(4-Bromo-phenyl)-2-methyl-propionic acid methyl ester | 17.5 mmol, 4.5 g | COC(C(C)(C)C1=CC=C(C=C1)Br)=O | C11H13BrO2
solvent | TMEDA THF | 81.4 mL | CN(C)CCN(C)C.C1CCOC1
solvent | ether | CCOCC | C4H10O
catalyst | (Ph3P)4Pd | 0.86 mmol, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-(furan-2-yl)-phenyl)-2-methyl-propionic acid methyl ester | 3.84 g | COC(C(C)(C)C1=CC=C(C=C1)C=1OC=CC1)=O | C15H16O3
